US06380215B1
A solution of N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3-ethynyl-β-alanine ethyl ester (1.38 g) in tetrahydrofuran (5 ml), ethanol (5 ml) and water (5 ml) was added lithium hydroxide (0.35 g) under stirring at 0° C. After stirring at ambient temperature for 1 hour, the mixture was acidified with 5% KHSO4 aqueous solution and extracted with ethyl acetate. The extract was washed with water, brine and dried over MgSO4, and evaporated in vacuo to give N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3-ethynyl-β-alanine (1.12 g).

reactant | N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3-ethynyl-β-alanine ethyl ester | 1.38 g | C(C)OC(CC(NC(=O)[C@H]1CN(CCC1)C(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O)C#C)=O | C26H41N3O6
reactant | lithium hydroxide | 0.35 g | [OH-].[Li+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3-ethynyl-β-alanine | 1.12 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)N1C[C@@H](CCC1)C(=O)NC(CC(=O)O)C#C | C24H37N3O6
